US07696223B2
b) 2-Methyl-1-phenyl-1H-indole-3-carboxylic acid ethyl ester
Prepared in analogy to that of 2-methyl-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester from 2-Methyl-1H-indole-3-carboxylic acid ethyl ester. The title compound, 1H NMR (200 MHz, CDCl3): δ (ppm)=8.15 (d, 1H, J=7.4 Hz), 7.6-6.9 (m, 8H), 4.43 (q, 2H, J=7.4 Hz), 2.59 (s, 3H), 1.47 (t, 3H, J=7.4 Hz).

reactant | 2-methyl-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C=C1)C1=CC=CC=C1)C | C14H15NO2
reactant | 2-Methyl-1H-indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC2=CC=CC=C12)C | C12H13NO2
product | 2-Methyl-1-phenyl-1H-indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)C | C18H17NO2
